US03966753
To a stirred solution of 49.7 parts of 2-oxo-4-thioxothiazolidine in 990 parts of methanol there was added at 40°C and under an atmosphere of nitrogen 54.3 parts of powdered 1,3-diiminoisoindoline. Initially, a thick slurry resulted. The reaction mixture was stirred at room temperature for 2 hours during which time the mixture gradually thinned. The mixture was then heated at reflux for approximately two hours and after cooling to 25°C, was filtered. The collected solid was washed with fresh methanol and dried in vacuo at 50°C to obtain 1-imino-3-(2-oxo-4-thioxo-5-thiazolidinylidene)isoindoline as an orange powder melting at 267°-8°C (dec.).

reactant | 2-oxo-4-thioxothiazolidine | O=C1SCC(N1)=S | C3H3NOS2
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
solvent | methanol | CO | CH4O
product | 1-imino-3-(2-oxo-4-thioxo-5-thiazolidinylidene)isoindoline | N=C1NC(C2=CC=CC=C12)=C1C(NC(S1)=O)=S | C11H7N3OS2
